US08008283B2
In a similar manner to Example 2, furosemide can be reacted with chloroacetonitrile in DMF to yield cyanomethyl 5-aminosulfonyl-4-chloro-2-[(2-furanylmethyl)amino]-benzoate.

reactant | furosemide | C=1C=C(OC1)CNC2=CC(=C(C=C2C(=O)O)S(=O)(=O)N)Cl | C12H11ClN2O5S
reactant | chloroacetonitrile | ClCC#N | C2H2ClN
solvent | DMF | CN(C)C=O | C3H7NO
product | cyanomethyl 5-aminosulfonyl-4-chloro-2-[(2-furanylmethyl)amino]-benzoate | NS(=O)(=O)C=1C(=CC(=C(C(=O)OCC#N)C1)NCC=1OC=CC1)Cl | C14H12ClN3O5S
